US06162813
Step 1C 2-[2-(7-chloro-6-nitro-2-oxo-3-thiophen-2-yl-1,2-dihydro-quinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 7-chloro-4-hydroxy-6-nitro-3-thiophen-2-yl-1H-quinolin-2-one (50 mg in 2.5 mL of tetrahydrofuran) at 0° C. was added 44 mg of 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester and 63 mg of triphenylphosphine followed by 0.04 mL of diethyl azodicarboxylate and the mixture warmed to room temperature. After 24 hours, the solvents were removed in vacuo and the residue purified by flash chromatography on silica gel (hexane:ethyl acetate, 90:10; then 80:20; then 60:40) to give the title compound (44 mg).

reactant | 7-chloro-4-hydroxy-6-nitro-3-thiophen-2-yl-1H-quinolin-2-one | 2.5 mL, 50 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C=1SC=CC1)O)[N+](=O)[O-] | C13H7ClN2O4S
reactant | 2-(2-hydroxyethyl)-piperidine-1-carboxylic acid tert-butyl ester | 44 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
reactant | triphenylphosphine | 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.04 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-[2-(7-chloro-6-nitro-2-oxo-3-thiophen-2-yl-1,2-dihydro-quinolin-4-yloxy)-ethyl]-piperidine-1-carboxylic acid tert-butyl ester | 44 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C=1SC=CC1 | C25H28ClN3O6S
